US07323455B2
1-(2-Amino-5-bromo-phenyl)-1-thiazol-2-yl-ethanol
Prepared from 1-(2-amino-5-bromo-phenyl)-ethanone and 2-thiazolyl lithium generally according to the procedure described in example 1. 1H-NMR (DMSO-d6) δ 7.70 (d, J=3.3 Hz, 1H), 7.64 (d, J=3.2 Hz, 1H), 7.28 (d, J=2.4 Hz, 1H), 7.10 (dd, J=8.5, 2.4 Hz, 1H), 6.92 (s, 1H), 6.55 (d, J=8.5 Hz, 1H), 5.50 (s, 2H), 1.90 (s, 3H).

reactant | 1-(2-amino-5-bromo-phenyl)-ethanone | NC1=C(C=C(C=C1)Br)C(C)=O | C8H8BrNO
reactant | 2-thiazolyl lithium | S1C(=NC=C1)[Li]
product | 1-(2-Amino-5-bromo-phenyl)-1-thiazol-2-yl-ethanol | NC1=C(C=C(C=C1)Br)C(C)(O)C=1SC=CN1 | C11H11BrN2OS
